US09193692B2
C. 1-Isopropyl-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
To a stirred mixture of 1-isopropyl-7-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (0.400 g, 0.921 mmol) in ethanol (40 mL) at 50° C. was added hydrogen chloride (4 M in dioxane, 1.381 mL, 5.52 mmol). The resulting mixture was heated at 50° C. under nitrogen for 1 h. The suspension was concentrated under reduced pressure and the resulting solid was taken up in dimethylsulfoxide and purified using silica gel chromatography (0-10% ammonia saturated methanol in dichloromethane) to afford the title compound (0.200 g, 0.571 mmol, 62.0% yield) as a brown-red solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm) 8.10 (br. s., 1H), 8.01 (br. s., 2H), 7.92 (s, 1H), 5.26 (quin, J=6.93 Hz, 1H), 4.14 (s, 2H), 3.58 (d, J=5.08 Hz, 3H), 1.47 (d, J=6.64 Hz, 6H); MS (ESI) m/z 351.5 [M+1]+.

reactant | 1-isopropyl-7-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.921 mmol, 0.400 g | C(C)(C)N1C(CNC=2C1=NC(=CN2)C=2C(=NC(=CC2)C2=NN=CN2C2OCCCC2)C)=O | C22H26N8O2
reactant | hydrogen chloride | 5.52 mmol, 4 M, 1.381 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 1-Isopropyl-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.571 mmol, 0.200 g, 62.0% yield | C(C)(C)N1C(CNC=2C1=NC(=CN2)C=2C(=NC(=CC2)C2=NN=CN2)C)=O | C17H18N8O
